US07994174B2
Prepared using General Procedure 5. The (S)-N-allyl-6-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide (94 mg, 0.18 mmol), 1,3-dimethylbarbituric acid (166 mg, 1.06 mmol), and palladium-tetrakis(triphenylphosphine) (42 mg, 0.036 mmol) were combined in a flask and the flask placed under N2. Acetonitrile (1.2 mL) was then added and the suspension was heated to 60° C. After 1.5 hours the suspension was filtered and concentrated. The residue was purified by mass-trigger LC/MS (10%-99% CH3CN/H2O (0.05% TFA)) over 15 minutes to yield (S)-6-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide. LC/MS (10%-99% CH3CN/H2O (0.05% TFA)), m/z: M+1 obs=490.3, tR=1.81 min.

reactant | (S)-N-allyl-6-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide | 0.18 mmol, 94 mg | C(C=C)N(S(=O)(=O)C=1C=NC(=CC1)N1C([C@H](CC1)N1CCCC2=CC(=CC=C12)Cl)=O)C=1SC=CN1 | C24H24ClN5O3S2
reactant | 1,3-dimethylbarbituric acid | 1.06 mmol, 166 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
catalyst | palladium-tetrakis(triphenylphosphine) | 0.036 mmol, 42 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | Acetonitrile | 1.2 mL | C(C)#N | C2H3N
product | (S)-6-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide | ClC=1C=C2CCCN(C2=CC1)[C@@H]1C(N(CC1)C1=CC=C(C=N1)S(=O)(=O)NC=1SC=CN1)=O | C21H20ClN5O3S2
